US07589206B2
b) 4,7-Dibromo-1-methyl-1H-pyrrolo[3,2-c]pyridine
A mixture of 4,7-dibromo-1H-pyrrolo[3,2-c]pyridine (1.35 g), iodomethane (609 ul) and anhydrous potassium carbonate (1.35 g) in dry acetone (90 ml) was refluxed overnight. The mixture was evaporated and the residue added to ethyl acetate (60 ml) and water (60 ml). The organic layer was washed with water then brine, dried (MgSO4) and evaporated. Purification of the residue by chromatography on silica gel, eluting with dichloromethane, gave the title compound (0.99 g)

reactant | 4,7-dibromo-1H-pyrrolo[3,2-c]pyridine | 1.35 g | BrC1=NC=C(C2=C1C=CN2)Br | C7H4Br2N2
reactant | iodomethane | 609 ul | IC | CH3I
reactant | potassium carbonate | 1.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 4,7-Dibromo-1-methyl-1H-pyrrolo[3,2-c]pyridine | 0.99 g | BrC1=NC=C(C2=C1C=CN2C)Br | C8H6Br2N2
